US08865712B2
3-Chloro-5-cyano-pyridine-2-carboxylic acid [6-((3R,6R)-5-amino-3,6-dimethyl-6-trifluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-5-fluoro-pyridin-2-yl]-amide
A solution of (2R,5R)-5-(6-amino-3-fluoro-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl amine and (2R,5S)-5-(6-Amino-3-fluoro-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl amine (10.99 g, 35.9 mmol, ca. 3:1 mixture), Boc2O (7.05 g, 32.3 mmol) and Hünig's base (7.52 ml, 43.1 mmol) in dichloromethane (120 ml) was stirred at 0° C. for 4 hours and then at rt over night. The reaction mixture was evaporated and the residue was diluted with ethyl acetate. Crushed ice was added and the mixture was washed with water and brine, dried over sodium sulfate, filtered and evaporated. The crude product (14.23 g) was triturated with toluene/cyclo-hexane/ethyl acetate 4:4:2, cooled and filtered. 5.14 g colorless solid. The filtrate was evaporated and the resulting mixture was filtered over silica (TBME) to give the 2 isomers as an 8:2 mixture (6.31 g). The colorless solid (5.14 g) was dissolved in dichloromethane and chromatographed over silicagel (toluene/cyclohexane/ethyl acetate 4:4:2) to afford the two isomers.

reactant | (2R,5R)-5-(6-amino-3-fluoro-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl amine | NC1=CC=C(C(=N1)[C@]1(N=C([C@@](OC1)(C(F)(F)F)C)N)C)F | C12H14F4N4O
reactant | (2R,5S)-5-(6-Amino-3-fluoro-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl amine | 35.9 mmol, 10.99 g | NC1=CC=C(C(=N1)[C@@]1(N=C([C@@](OC1)(C(F)(F)F)C)N)C)F | C12H14F4N4O
reactant | Boc2O | 32.3 mmol, 7.05 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Hünig's base | 43.1 mmol, 7.52 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 3-Chloro-5-cyano-pyridine-2-carboxylic acid [6-((3R,6R)-5-amino-3,6-dimethyl-6-trifluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-5-fluoro-pyridin-2-yl]-amide | 6.31 g | NC1=N[C@](CO[C@]1(C(F)(F)F)C)(C)C1=C(C=CC(=N1)NC(=O)C1=NC=C(C=C1Cl)C#N)F | C19H15ClF4N6O2
